US08835634B2
To 12 g (88.1 mmol) of N-ethylbenzene-1,2-diamine in 150 ml of methanol were added dropwise 8.1 g (92.5 mM) of oxalyl chloride. The exothermic mixture reached 55° C. and solidified. The mixture was heated at 130° C. for 2 h. The purple solid formed was filtered and washed with isopropanol to give 1-ethyl-1,4-dihydroquinoxaline-2,3-dione as a solid (7.2 g). Yield: 43%.

reactant | N-ethylbenzene-1,2-diamine | 88.1 mmol, 12 g | C(C)NC=1C(=CC=CC1)N | C8H12N2
reactant | oxalyl chloride | 92.5 mM, 8.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methanol | 150 ml | CO | CH4O
product | 1-ethyl-1,4-dihydroquinoxaline-2,3-dione | 7.2 g, Yield: 43% | C(C)N1C(C(NC2=CC=CC=C12)=O)=O | C10H10N2O2
